US04699979
Diphenylmethyl 7-Benzylideneamino-3-triphenylphosphoniomethyl-3-cephem-4-carboxylate Chloride
To a suspension of diphenylmethyl 7-amino-3-chloromethyl-3-cephem-4-carboxylate hydrochloride (200 g, 0.44 mole) in CH2Cl2 (940 ml) was added 1N NaOH (440 ml) at room temperature. The mixture was shaken for 10 minutes and the organic layer was separated. To this organic layer were added MgSO4 (75 g) and benzaldehyde (51 g, 0.48 mole) and the mixture was allowed to stand for 3 hours at room temperature. The reaction mixture was filtered and the insolubles were washed with CH2Cl2 (200 ml). To the combined filtrate and washings was added triphenylphosphine (126 g, 0.48 mole). The mixture was concentrated to about 400 ml under reduced pressure and allowed to stand for 4 days. The resulting viscous oil was diluted with ethyl acetate (1 l) and triturated to separate the title compound, a pale yellow crystalline powder which was collected by filtration and dried in vacuo. Yield 322 g (96 %). M.p. 185°~190° C. (dec.).

reactant | diphenylmethyl 7-amino-3-chloromethyl-3-cephem-4-carboxylate hydrochloride | 0.44 mole, 200 g | Cl.NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | NaOH | 1N, 440 ml | [OH-].[Na+]
reactant | MgSO4 | 75 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | benzaldehyde | 0.48 mole, 51 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | triphenylphosphine | 0.48 mole, 126 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 940 ml | C(Cl)Cl | CH2Cl2
product | Diphenylmethyl 7-Benzylideneamino-3-triphenylphosphoniomethyl-3-cephem-4-carboxylate Chloride | [Cl-].C(C1=CC=CC=C1)=NC1[C@@H]2N(C(=C(CS2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | InChI=1S/C46H38N2O3PS.ClH/c49-44-41(47-31-34-19-7-1-8-20-34)45-48(44)42(46(50)51-43(35-21-9-2-10-22-35)36-23-11-3-12-24-36)37(33-53-45)32-52(38-25-13-4-14-26-38,39-27-15-5-16-28-39)40-29-17-6-18-30-40;/h1-31,41,43,45H,32-33H2;1H/q+1;/p-1/t41?,45-;/m1./s1
